US03960970
70 g of methyl vinyl ketone are added dropwise in the course of 60 minutes, whilst stirring, to 1,000 g of mesityl oxide and 50 ml of 50% potassium hydroxide solution, at 70°C. Thereafter the mixture is stirred for a further 10 minutes at 70°C and neutralized with glacial acetic acid, and the organic phase is distilled. 181 g of crude piperitenone are obtained; piperitenone content 55.7%, yield therefore 67.2%.

reactant | methyl vinyl ketone | 70 g | C(=C)C(=O)C | C4H6O
reactant | mesityl oxide | 1,000 g | O=C(C)C=C(C)C | C6H10O
reactant | potassium hydroxide | 50 ml | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | piperitenone | 181 g | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
